US07504508B2
Methyl 4-(4-{[(2S,4R)-4-[(4-chlorophenyl)(propionyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenoxy)-2,2-dimethylbutanoate was dissolved in methanol/tetrahydrofuran/water (2/1/1) then sodium hydroxide (3 equivalents) was added and reaction mixture stirred at 40° C. overnight. The mixture was concentrated, the residue acidified with a 1N HCl aqueous solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, filtered and concentrated to give 4-(4-{[(2S,4R)-4-[(4-chlorophenyl)(propionyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenoxy)-2,2-dimethylbutanoic acid.

reactant | Methyl 4-(4-{[(2S,4R)-4-[(4-chlorophenyl)(propionyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenoxy)-2,2-dimethylbutanoate | ClC1=CC=C(C=C1)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(OCCC(C(=O)OC)(C)C)C=C1)C)C(CC)=O | C33H37ClN2O5
reactant | sodium hydroxide | 3 equivalents | [OH-].[Na+]
solvent | methanol tetrahydrofuran water | CO.O1CCCC1.O
product | 4-(4-{[(2S,4R)-4-[(4-chlorophenyl)(propionyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenoxy)-2,2-dimethylbutanoic acid | ClC1=CC=C(C=C1)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(OCCC(C(=O)O)(C)C)C=C1)C)C(CC)=O | C32H35ClN2O5
